US07435837B2
Treatment of (±)-1-[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (1.5 g, 5.36 mmol) with diisopropylethylamine (1.04 g, 8.04 mmol) and benzyl chloroformate (1.01 g, 5.89 mmol) generally according to the procedure described for Intermediate 12 afforded 1.7 g (84%) of (±)-benzyl[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate as a colorless oil Rf=0.68 (silica, ethyl acetate:hexanes 1:9); Anal. calcd. for C22H18FNO3: C, 72.72; H, 4.99; N, 3.85. Found: C, 72.65H, 5.41; N, 3.47. Chiral HPLC separation of (±)-benzyl[7-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate (Chiralcel OJ, hexane:isopropanol 9:1) provided two fractions. Fraction 1 (Rt=13.628 min, Chiralcel OJ, hexane:isopropanol 9:1); Fraction 2 (Rt=17.247 min, Chiralcel OJ, hexane:isopropanol 9:1).

reactant | (±)-1-[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 5.36 mmol, 1.5 g | FC1=C(C=CC=C1)C1=CC=CC=2CC(OC21)CN | C15H14FNO
reactant | diisopropylethylamine | 8.04 mmol, 1.04 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 5.89 mmol, 1.01 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl[7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate | 1.7 g, 84% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)F)=O | C23H20FNO3
